US05128355
Part A: Preparation of 2-Butyl-4-chloro-1-(4-nitrobenzyl)imidazole-5-acetic acid
2-Butyl-4-chloro-5-(cyanomethyl)-1-(4-nitrobenzyl)imidazole (7.08 g) and a 1:1 mixture of 12N HCl and glacial acetic acid (175 mL) were mixed and refluxed for 6 hours. The solvents were removed by rotary evaporation and water (300 mL) was then added to the residue. After a few minutes, the product precipitated and was collected and dried to give 7.35 g of a solid; m.p. 207.0°-210.0°. NMR (200 MHz, DMSO-d6 /CDCl3) δ 8.20 (d, 2H, J=10Hz); 7.22 (d, 2H, J=10Hz); 5.28 (s, 2H); 3.42 (s, 2H); 2.52 (t, 2H, J=7Hz); 1.64 (m, 2H); 1.34 (m, 2H); 0.86 (t, 3H, J=7Hz). Anal. Calcd. for C16H18ClN3O4 ; C, 54.63; H, 5.16; N, 11.84. Found: C, 54.52; H, 5.05; N, 12.21.

reactant | 2-Butyl-4-chloro-5-(cyanomethyl)-1-(4-nitrobenzyl)imidazole | 7.08 g | C(CCC)C=1N(C(=C(N1)Cl)CC#N)CC1=CC=C(C=C1)[N+](=O)[O-] | C16H17ClN4O2
reactant | HCl | 12N | Cl | ClH
reactant | acetic acid | 175 mL | C(C)(=O)O | C2H4O2
product | 2-Butyl-4-chloro-1-(4-nitrobenzyl)imidazole-5-acetic acid | 7.35 g | C(CCC)C=1N(C(=C(N1)Cl)CC(=O)O)CC1=CC=C(C=C1)[N+](=O)[O-] | C16H18ClN3O4
